US06118016
G) 3-[[4-(4-Fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic Acid Ethyl Ester
A solution of 1.37 g (19.7 mmol, 1.3 equivalents) of hydroxylamine hydrochloride in 9.2 mL (114 mmol, 7.5 equivalents) of dry pyridine at 0° C. was treated with 5.8 mL (45 mmol, 3.0 equivalents) of trimethylsilyl chloride, causing white solids to precipitate, and allowed to warm to ambient temperature overnight. This mixture was cooled to 0° C. and treated with a solution of 7.54 g (15.1 mmol) of 3-{(1-chlorocarbonylcyclopentyl)-[4-(4-fluorophenoxy)-benzenesulfonyl]amino}propionic acid ethyl ester in 73 mL of dichloromethane, prepared as described above without isolation, causing an exotherm to 8° C. This mixture was stirred at 0° C. for 30 minutes and at ambient temperature for one hour before treating with 50 mL of 2N aqueous hydrochloric acid and stirring at ambient temperature for one hour. The aqueous phase was extracted with dichloromethane and the combined organic phases were washed with 2N aqueous hydrochloric acid (2×50 mL) and water (50 mL). This solution of 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid ethyl ester in dichloromethane was used for the preparation of 3-[[4-(4-fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid without isolation. An aliquot was concentrated to a foam.

reactant | hydroxylamine hydrochloride | 19.7 mmol, 1.37 g, 1.3 equivalents | Cl.NO
reactant | pyridine | 114 mmol, 9.2 mL, 7.5 equivalents | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilyl chloride | 45 mmol, 5.8 mL, 3.0 equivalents | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-{(1-chlorocarbonylcyclopentyl)-[4-(4-fluorophenoxy)-benzenesulfonyl]amino}propionic acid ethyl ester | 15.1 mmol, 7.54 g | C(C)OC(CCN(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C1(CCCC1)C(=O)Cl)=O | C23H25ClFNO6S
reactant | hydrochloric acid | 2N, 50 mL | Cl | ClH
solvent | dichloromethane | 73 mL | ClCCl | CH2Cl2
product | 3-[[4-(4-Fluorophenoxy)benzenesulfonyl]-(1-hydroxycarbamoylcyclopentyl)amino]propionic Acid Ethyl Ester | C(C)OC(CCN(C1(CCCC1)C(NO)=O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C23H27FN2O7S
